US06900216B2
A mixture of 2-(N,N-dimethylcarbamoylthio)-3-methoxybenzaldehyde (6.7 g), sodium hydroxide (1.4 g), water (13 ml) and methanol (27 ml) was heated under reflux under nitrogen for 1 hour then cooled to ambient temperature and washed with dichloromethane (20 ml). Water (10 ml), methanol (10 ml) and sodium chloroacetate (3.25 g) were added, the mixture was heated under reflux for 8 hours, then it was cooled to ambient temperature and acidified by the addition of 5M hydrochloric acid (15 ml). The product was extracted into dichloromethane (3×30 ml), then the combined extracts were dried (MgSO4) and the solvent was removed in vacuo. The resulting crude (2-formyl-6-methoxyphenylthio)acetic acid (3 g) was diluted with 5M aqueous sodium hydroxide solution then the mixture was heated under reflux for 3.5 hours, cooled to ambient temperature and added dropwise to stirred 5M hydrochloric acid (150 ml). The resulting solid was collected by filtration, washed with water (40 ml) and crystallised from a 3:1 mixture of methanol and water (250 ml) to give 7-methoxybenzo[b]thiophene-2-carboxylic acid (1.9 g) as a pale pink solid which was used without further purification.

reactant | 2-(N,N-dimethylcarbamoylthio)-3-methoxybenzaldehyde | 6.7 g | CN(C(=O)SC1=C(C=O)C=CC=C1OC)C | C11H13NO3S
reactant | sodium hydroxide | 1.4 g | [OH-].[Na+]
reactant | water | 13 ml | O | H2O
reactant | methanol | 27 ml | CO | CH4O
product | 7-methoxybenzo[b]thiophene-2-carboxylic acid | 1.9 g | COC1=CC=CC2=C1SC(=C2)C(=O)O | C10H8O3S
